US05585485
2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxycarbonylmethoxy)imino]thioacetic-acid-S-benzothiazol-2-ylester
2.1 g of 2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxy carbonylmethoxy)imino]acetic acid, 1.7 g of triphenylphosphine and 2.2 g of bis-(benzothiazol-2-yl)disulphide are stirred for 2 hours at 0° in 50 ml of dichloromethane. The dichloromethane is then distilled off and the solid residue is digested with methanol. 2.6 g of the title compound are obtained as a colourless powder. M.p.: 152°.

reactant | 2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxy carbonylmethoxy)imino]acetic acid | 2.1 g | NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H17N3O5S
reactant | triphenylphosphine | 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bis-(benzothiazol-2-yl)disulphide | 2.2 g | S1C(=NC2=C1C=CC=C2)SSC=2SC1=C(N2)C=CC=C1 | C14H8N2S4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-(2-amino-4-thiazolyl)-(Z)-2-[(diphenylmethoxycarbonylmethoxy)imino]thioacetic-acid-S-benzothiazol-2-ylester | 2.6 g | S1C(=NC2=C1C=CC=C2)SC(\C(=N/OCC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)N)=O | C27H20N4O4S3
